US05034417
A solution of bromine (0.81 g) in chloroform (5 ml) was added dropwise to a stirred solution of 4'-acetyl2'-(2,4-difluorophenylthio)methanesulfonanilide (1.8 g) and benzoyl peroxide (8 mg) in chloroform (20 ml). After stirring for 1 hour at room temperature, the mixture was washed with water and an aqueous solution of sodium bisulfite successively. The organic layer was dried and concentrated to give 4'-bromoacetyl-2'(2,4-difluorophenylthio)methanesulfonanilide.

reactant | bromine | 0.81 g | BrBr | Br2
reactant | 4'-acetyl2'-(2,4-difluorophenylthio)methanesulfonanilide | 1.8 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | C15H13F2NO3S2
reactant | benzoyl peroxide | 8 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4'-bromoacetyl-2'(2,4-difluorophenylthio)methanesulfonanilide | BrCC(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | C15H12BrF2NO3S2
